US04267174
1-Diphenylacetyl-2-cyanoaziridine
The same compound is also obtained when a solution of 1.15 g. diphenylacetyl chloride in 5 ml. anhydrous diethyl ether is added dropwise at 0° C. to a solution of 0.35 g. 2-cyanoaziridine and 0.6 g. triethylamine in 15 ml. diethyl ether and the reaction mixture then stirred for 1 hour at 0° C. and for 2 hours at ambient temperature. The precipitated hydrochloride is filtered off with suction (0.7 g.) and the ethereal filtrate is concentrated to a volume of about 10 ml. and shaken out twice with 5 ml. amounts of water. After evaporation of the ethereal phase, there is obtained 1.13 g. of the desired compound.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Diphenylacetyl-2-cyanoaziridine | C1(=CC=CC=C1)C(C(=O)N1C(C1)C#N)C1=CC=CC=C1 | C17H14N2O
